US08703103B2
Synthesis of 4-Bromo-2,2,5,5-tetramethyl-3-hexanone
24 g of N-bromosuccinimide (0.1344 mol) was added to 10 g of 2,2,5,5-Tetramethyl-3-hexanone (0.064 mol) in 50 mL of trimethylacetonitrile. To this mixture, 10 g of ammonium acetate (0.1344 mol) was added within 5 minutes. This mixture was refluxed overnight then filtered. To the filtrate, 24 g of N-bromosuccinimide (0.1344 mol) and 10 g of ammonium acetate (0.1344 mol) was added, then refluxed for 5 hours. The reaction mixture was then cooled, 600 mL of water added, and the resulting mixture then filtered. The aqueous layer was washed three times with 50 ml of hexanes. The hexane fractions were then combined, washed three times with 50 ml of with water, then dried with anhydrous magnesium sulfate. Product was collected by distilling off the hexane at atmospheric pressure.

reactant | N-bromosuccinimide | 0.1344 mol, 24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2,5,5-Tetramethyl-3-hexanone | 0.064 mol, 10 g | CC(C)(C(CC(C)(C)C)=O)C | C10H20O
reactant | ammonium acetate | 0.1344 mol, 10 g | C(C)(=O)[O-].[NH4+]
reactant | N-bromosuccinimide | 0.1344 mol, 24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ammonium acetate | 0.1344 mol, 10 g | C(C)(=O)[O-].[NH4+]
reactant | water | 600 mL | O | H2O
solvent | trimethylacetonitrile | 50 mL | CC(C#N)(C)C | C5H9N
product | 4-Bromo-2,2,5,5-tetramethyl-3-hexanone | BrC(C(C(C)(C)C)=O)C(C)(C)C | C10H19BrO
